US06573288B1
e) 2-[4-(4-Chloro-5-formyl-2-phenylimidazol-1-ylmethyl)benzenesulfonyl]-N-dimethylaminomethylenebenzenesulfonamide
1.6 g of 2-(4-bromomethylbenzenesulfonyl)-N-dimethylaminomethylenebenzenesulfonamide, 680 mg of 5-chloro-2-phenyl-3H-imidazole-4-carbaldehyde and 1.4 g of K2CO3 are stirred at RT for 3 days in 15 ml of anhydrous DMF. The reaction mixture is then diluted with 200 ml of EA and washed three times with 50 ml of a saturated aqueous Na2CO3 solution each time. It is dried over MgSO4 and the solvent is removed in vacuo. Chromatography on silica gel using MTB yields 240 mg of a colorless oil.

reactant | 2-(4-bromomethylbenzenesulfonyl)-N-dimethylaminomethylenebenzenesulfonamide | 1.6 g | BrCC1=CC=C(C=C1)S(=O)(=O)C1=C(C=CC=C1)S(=O)(=O)N=CN(C)C | C16H17BrN2O4S2
reactant | 5-chloro-2-phenyl-3H-imidazole-4-carbaldehyde | 680 mg | ClC1=C(NC(=N1)C1=CC=CC=C1)C=O | C10H7ClN2O
reactant | K2CO3 | 1.4 g | C(=O)([O-])[O-].[K+].[K+]
solvent | DMF | 15 ml | CN(C)C=O | C3H7NO
solvent | EA | 200 ml | CC(OCC)=O | C4H8O2
product | 2-[4-(4-Chloro-5-formyl-2-phenylimidazol-1-ylmethyl)benzenesulfonyl]-N-dimethylaminomethylenebenzenesulfonamide | 240 mg | ClC=1N=C(N(C1C=O)CC1=CC=C(C=C1)S(=O)(=O)C1=C(C=CC=C1)S(=O)(=O)N=CN(C)C)C1=CC=CC=C1 | C26H23ClN4O5S2
